US07105671B2
A solution of 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-(3-formyloxy-cyclopentyl)-propionic acid (380 mg, 1.01 mmol) in toluene (10 mL) at 0° C. was treated with N,N-dimethylformamide (0.008 mL) followed by a 2.0M solution of oxalyl chloride in methylene chloride (0.75 mL). The reaction mixture was allowed to stir at 0° C. for 30 min and at 25° C. for 1.5 h. It appeared that a thick oil in the bottom of the reaction flask never solubilized. Additional methylene chloride (10 mL) was added at 25° C. followed by N,N-dimethylformamide (0.002 mL) and oxalyl chloride (0.3 mL). The reaction mixture was stirred at 25° C. for an additional 45 min and then concentrated in vacuo. The residue was dissolved in dry tetrahydrofuran (5 mL) and cooled to 0° C. This cold solution was then treated with a solution of 2-aminopyrazine (142 mg, 1.5 mmol) and pyridine (0.121 mL, 1.5 mmol) in dry tetrahydrofuran (5 mL) via a cannula. The resulting reaction mixture was stirred at 0° C. for 1 h and then diluted with methylene chloride (100 mL). The organic layer was successively washed with a 1M aqueous citric acid solution (2×100 mL), a saturated sodium bicarbonate solution (1×100 mL), and a saturated sodium chloride solution (1×100 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford formic acid 3-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-2-(pyrazin-2-ylcarbamoyl)-ethyl]-cyclopentyl ester (375 mg, 82%) off-white solid.

reactant | 2(R)-(3-chloro-4-methanesulfonyl-phenyl)-3-(3-formyloxy-cyclopentyl)-propionic acid | 1.01 mmol, 380 mg | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)O)CC1CC(CC1)OC=O | C16H19ClO6S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminopyrazine | 1.5 mmol, 142 mg | NC1=NC=CN=C1 | C4H5N3
reactant | pyridine | 1.5 mmol, 0.121 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 0.75 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.002 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.008 mL | CN(C=O)C | C3H7NO
product | formic acid 3-[2(R)-(3-chloro-4-methanesulfonyl-phenyl)-2-(pyrazin-2-ylcarbamoyl)-ethyl]-cyclopentyl ester | 375 mg, 82% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@@H](CC1CC(CC1)OC=O)C(NC1=NC=CN=C1)=O | C20H22ClN3O5S
